US07700641B2
Synthesis of 1′-[(1-methylpiperidin-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one hydrochloride
To a solution of 1′-(piperidin-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (0.19 g, 0.50 mmol) in dichloroethane (5.00 mL) was added formaldehyde (0.10 mL, 33% solution, 0.03 g, 1.10 mmol) and sodium triacetoxyborohydride (0.30 g, 1.40 mmol). After stirring at ambient temperature for 20 hours, the reaction mixture was diluted with of dichloromethane (20.0 mL) and washed with water (2×20.0 mL). The organic layer was dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography and the product was dissolved in dichloromethane (5.00 mL) and excess of HCl in ether was added. The precipitate was filtered to give the title compound in 20% yield: MS (ES+) m/z 393.3 (M+1).

reactant | 1′-(piperidin-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.50 mmol, 0.19 g | N1CCC(CC1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C22H22N2O4
reactant | formaldehyde | 1.10 mmol, 0.10 mL, 0.03 g | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.40 mmol, 0.30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 5.00 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
product | 1′-[(1-methylpiperidin-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one hydrochloride | 20% yield | Cl.CN1CCC(CC1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | InChI=1S/C23H24N2O4.ClH/c1-24-8-6-15(7-9-24)12-25-18-5-3-2-4-16(18)23(22(25)26)13-27-19-11-21-20(10-17(19)23)28-14-29-21;/h2-5,10-11,15H,6-9,12-14H2,1H3;1H
